US08445510B2
Ethyl trans-4-[3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanecarboxylate
To a solution of ethyl trans-4-(4-iodo-3,5-dimethyl-1H-pyrazol-1-yl)cyclohexane-carboxylate (100.0 mg, 0.2658 mmol) in THF (5 mL, 60 mmol) was added 2 M isopropylmagnesium chloride in THF (0.5316 mL, 1.063 mmol) at rt, and the mixture was stirred for 30 min. 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.2178 mL, 1.329 mmol) was added, and the mixture stirred at rt overnight. The reaction was quenched with sat. NH4Cl, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo to afford the title compound as a clear oil.

reactant | ethyl trans-4-(4-iodo-3,5-dimethyl-1H-pyrazol-1-yl)cyclohexane-carboxylate | 0.2658 mmol, 100.0 mg | IC=1C(=NN(C1C)[C@@H]1CC[C@H](CC1)C(=O)OCC)C | C14H21IN2O2
reactant | THF | 60 mmol, 5 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 1.063 mmol, 0.5316 mL | C1CCOC1 | C4H8O
reactant | 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.329 mmol, 0.2178 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
product | Ethyl trans-4-[3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanecarboxylate | CC1=NN(C(=C1B1OC(C(O1)(C)C)(C)C)C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C20H33BN2O4
